US07795272B2
To a solution of 950 mg (3.45 mmol) of 1,1,1-trifluoro-3-(6-fluoro-4-methylchroman-4-yl)propan-2-one in 10 mL of anhydrous DMSO was added 3.5 mL (4.2 mmol) of a 1.2 M solution of trimethylsulfoxonium ylide, which was prepared by reacting 1.45 g (36.3 mmol) of sodium hydride (60% in mineral oil) with 8 g (36.3 mmol) of trimethylsulfoxonium iodide in 30 mL of DMSO. After 2 hours, the mixture was poured onto ice-cold saturated aqueous ammonium chloride and extracted with 150 mL of ether in several portions. The combined organic layers were washed with four portions of water, then washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 930 mg (93%) of 6-fluoro-4-methyl-4(2-trifloromethyloxiranylmethyl)chroman as a 1:1 mixture of diastereomers by 1H NMR.

reactant | 1,1,1-trifluoro-3-(6-fluoro-4-methylchroman-4-yl)propan-2-one | 3.45 mmol, 950 mg | FC(C(CC1(CCOC2=CC=C(C=C12)F)C)=O)(F)F | C13H12F4O2
reactant | trimethylsulfoxonium | C[S+](=O)(C)C
reactant | sodium hydride | 36.3 mmol, 1.45 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 36.3 mmol, 8 g | [I-].C[S+](=O)(C)C
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 6-fluoro-4-methyl-4(2-trifloromethyloxiranylmethyl)chroman | 930 mg, 93% | FC=1C=C2C(CCOC2=CC1)(CC1(OC1)C(F)(F)F)C | C14H14F4O2
